US04200761
5-methyl-4-chloromethyl-imidazole hydrochloride (1.70 g, 0.1 mole) and thiourea (0.84 g, 0.11 mole) were reflucted for 6 hours in acetone (200 ml), giving S-(4-methyl-5-methylimidazolyl)-isothiourea. The solvent was evaporated and a saturated aqueous solution of potassium carbonate (50 ml) was added to the residue. After stirring for 30 minutes at 70° C. and evaporating the water, isopropanol (100 ml) was added and hydrogen chloride was passed into the solution to reach the pH of 1. The inorganic salts was filtered off and the filtrate was evaporated to dryness. Recrystallization from isopropanol yielded the desired compound (1.45 g, 86.8%), m.p. 283°-285° C.

reactant | 5-methyl-4-chloromethyl-imidazole hydrochloride | 0.1 mole, 1.70 g | Cl.CC1=C(N=CN1)CCl
reactant | thiourea | 0.11 mole, 0.84 g | NC(=S)N | CH4N2S
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | S-(4-methyl-5-methylimidazolyl)-isothiourea | CC=1N=C(NC1C)SC(N)=N | C6H10N4S
